US04705784
7-[(Z)-2-Methoxyimino-2-(thiazol-4-yl)acetamido]-3-carbamoyloxymethyl-3-cephem-4-carboxylic acid
On the other hand, 7-amino-3-carbamoyloxymethyl-3-cephem-4-carboxylic acid (1.365 g) was suspended in a mixture of water (10 ml) and tetrahydrofuran (15 ml). While cooling with ice, triethylamine (1.01 g) was added to form a solution. To this ice-cooled solution was added dropwise the above active solution of (Z)-2-methoxyimino-2-(thiazol-4-yl)acetic acid over one hour. During the time triethylamine (total 0.78 g) was added in parts at suitable times to keep the reaction mixture at pH 6-7. After completion of the dropping, the mixture was stirred for 45 min under cooling with ice. Then the temperature was raised gradually to 15° C. After the mixture was stirred for 20 minutes at that temperature, the tetrahydrofuran was evaporated under reduced pressure. Then the aqueous layer was adjusted to pH 2-3 with 2N-HCl. The precipitates were filtered, washed with water, and dried in vacuo over phosphorus pentoxide to give the title compound (0.90 g). Further, ethyl acetate (20 ml) was added to the filtrate and the mixture was shaked. The insoluble matter formed on the interface between the aqueous layer and the ethyl acetate layer was filtered, and dried in vacuo over phosphorus pentoxide to give the title compound (0.61 g).

reactant | 7-amino-3-carbamoyloxymethyl-3-cephem-4-carboxylic acid | 1.365 g | NC1[C@@H]2N(C(=C(CS2)COC(N)=O)C(=O)O)C1=O | C9H11N3O5S
reactant | triethylamine | 1.01 g | C(C)N(CC)CC | C6H15N
reactant | (Z)-2-methoxyimino-2-(thiazol-4-yl)acetic acid | CO\N=C(/C(=O)O)\C=1N=CSC1 | C6H6N2O3S
reactant | triethylamine | 0.78 g | C(C)N(CC)CC | C6H15N
solvent | water | 10 ml | O | H2O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 7-[(Z)-2-Methoxyimino-2-(thiazol-4-yl)acetamido]-3-carbamoyloxymethyl-3-cephem-4-carboxylic acid | 0.90 g | CO\N=C(/C(=O)NC1[C@@H]2N(C(=C(CS2)COC(N)=O)C(=O)O)C1=O)\C=1N=CSC1 | C15H15N5O7S2
